US07910734B2
2-(3,3,5,5-Tetramethylcyclohexyl)phenylamine
In a 100 mL autoclave, 10% palladium on carbon (water content 50%, 1.2 g) was added to a solution of 2-(3,3,5,5-tetramethylcyclohex-1-enyl)phenylamine (4.00 g, 17.4 mmol) in ethanol (40 mL), followed by stirring at room temperature, 5 kgf/cm2 of hydrogen pressure for 5.5 hours. Then the reaction mixture was stirred at room temperature, 10 kgf/cm2 of hydrogen pressure for 3 hours, introduction of hydrogen was stopped, and the reaction mixture was stirred at room temperature for 15 hours. The reaction mixture was stirred at room temperature, 10 kgf/cm2 of hydrogen pressure for 9.5 hours, introduction of hydrogen was stopped, and the reaction mixture was stirred at room temperature for 13 hours. The reaction mixture was stirred at room temperature, 10 kgf/cm2 of hydrogen pressure for 7.5 hours, and the reaction mixture was stirred at room temperature. The pressure was brought to atmospheric pressure, and the reaction mixture was filtered through Celite, and concentrated to give 3.90 g of the title compound as a brown oil.

reactant | 2-(3,3,5,5-tetramethylcyclohex-1-enyl)phenylamine | 17.4 mmol, 4.00 g | CC1(C=C(CC(C1)(C)C)C1=C(C=CC=C1)N)C | C16H23N
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.2 g | [Pd] | Pd
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2-(3,3,5,5-Tetramethylcyclohexyl)phenylamine | 3.90 g | CC1(CC(CC(C1)(C)C)C1=C(C=CC=C1)N)C | C16H25N
